US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dimethyl-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (30 mg) was dissolved in DMF and 3,4-dimethylbenzyl bromide (2 equiv) and potassium carbonate (3 eq.) added. The reaction mixture was stirred at room temperature and was poured onto EtOAc and water. The organic layer was dried over sodium sulfate and concentrated. The mixture was purified over silica (hexanes; 1:1 hexanes/EtOAc; 1:1 hexanes/EtOAc+1% MeOH). The resulting compound was dissolved in 2 mL DCM and 1 mL 4N HCl (dioxane) was added. The mixture was stirred at room temperature for 1.5 hours and was concentrated. The residue was suspended in DCM. TEA (3 eq.) was added and the mixture used in the following reaction sequence. In a separate vial, EDC (3 eq.) and 2,5-dimethyl-oxazole-4-carboxylic acid (6 eq.) were dissolved in DCM and stirred for 40 minutes. This solution was added to the above mixture and stirred for 12 hours. The reaction mixture was directly purified over silica (hexanes; 1:1 hexanes/EtOAc; 1:1 hexanes/EtOAc+1% MeOH; 1:1 hexanes/EtOAc+2% MeOH; 1:1 hexanes/EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 822.

reactant | (3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)O | C40H43N3O8
reactant | 3,4-dimethylbenzyl bromide | 2 equiv | CC=1C=C(CBr)C=CC1C | C9H11Br
reactant | potassium carbonate | 3 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | EDC | 3 eq.
reactant | 2,5-dimethyl-oxazole-4-carboxylic acid | 6 eq. | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dimethyl-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | CC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(=O)C=3N=C(OC3C)C)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1C | C49H48N4O8
